US07504410B2
2c) 2-(4-(Aminomethyl)-phenylamino)-4(prop-2-ynylamino)5-trifluoromethyl-pyrimidine
A mixture of 2-chloro-4-(prop-2-ynylamino)-5-trifluoromethyl-pyrimidine (235 mg), N-(4-aminobenzyl)-2,2,2-trifluoro-acetamide (410 mg) and hydrochloric acid (37% in water, 0.2 mL) in methanol (5 mL) was refluxed for 1 h. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution, the aqueous phase extracted with ethyl acetate, the combined organic phases dried (Na2SO4), concentrated, filtered through silica using dichloromethane/methanol, and the filtrate evaporated. To a solution of the residue in methanol (9 mL), tetrahydrofuran (9 mL) and diethyl ether (4-5 mL) was added lithium hydroxide (150 mg) and the mixture was refluxed for 6 h, after which it was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted with additional ethyl acetate, the combined organic phases dried (Na2SO4) and evaporated, which gave, after chromatography on silica using dichloromethane/methanol, the title compound (120 mg).

reactant | 2-chloro-4-(prop-2-ynylamino)-5-trifluoromethyl-pyrimidine | 235 mg | ClC1=NC=C(C(=N1)NCC#C)C(F)(F)F | C8H5ClF3N3
reactant | N-(4-aminobenzyl)-2,2,2-trifluoro-acetamide | 410 mg | NC1=CC=C(CNC(C(F)(F)F)=O)C=C1 | C9H9F3N2O
reactant | hydrochloric acid | 0.2 mL | Cl | ClH
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | 5 mL | CO | CH4O
product | 2-(4-(Aminomethyl)-phenylamino)-4(prop-2-ynylamino)5-trifluoromethyl-pyrimidine | 120 mg | NCC1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC#C)C(F)(F)F | C15H14F3N5
